US07435823B2
A solution of methyl 4-amino-6-hydroxy-1-naphthoate (0.500 g, 2.30 mmol) in THF (2.5 mL) was cooled to 0° C. and 3 N HCl (5.0 mL) was added. A solution of sodium nitrite (0.175 g, 2.53 mmol) in water (1.2 mL) was added and the mixture stirred at 0° C. for 15 min. A solution of potassium iodide (0.764 g, 4.60 mmol) in water (1.2 ml) was added and the mixture was stirred at 0° C. for 1 h. EtOAc was added and the solution was poured into water. The aqueous phase was separated and extracted with EtOAc. The combined organic phases were washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated to afford a red-brown oil. This material was purified via column chromatography on silica gel (eluting with 0-50% EtOAc-hexane) to afford methyl 6-hydroxy-4-iodo-1-naphthoate as a tan solid. MS (ESI, pos. ion) m/z: 328.8 (M+H). Mass Calc'd for C12H9IO3: 328.

reactant | methyl 4-amino-6-hydroxy-1-naphthoate | 2.30 mmol, 0.500 g | NC1=CC=C(C2=CC=C(C=C12)O)C(=O)OC | C12H11NO3
reactant | HCl | 3 N, 5.0 mL | Cl | ClH
reactant | sodium nitrite | 2.53 mmol, 0.175 g | N(=O)[O-].[Na+]
reactant | potassium iodide | 4.60 mmol, 0.764 g | [I-].[K+]
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
solvent | water | 1.2 mL | O | H2O
solvent | water | 1.2 ml | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | methyl 6-hydroxy-4-iodo-1-naphthoate | OC=1C=C2C(=CC=C(C2=CC1)C(=O)OC)I | C12H9IO3
